Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___: Cardiac catheterization

 
History of Present Illness:
Per admitting HPI-

___ is a ___ year old generally
healthy male with a history of bleeding gastric ulcer, GERD,
hiatal hernia and recent cessation of tobacco use who presented
to ___ with 2 weeks of upper abdominal pain and
pressure that progressed on ___ into his chest, neck, and left
arm, transferred to ___ for NSTEMI.

Symptoms began 2 weeks ago with abdominal discomfort and 
pressure
that came on slowly. He thought this was his GERD symptoms 
acting
up and started taking Omperazole. However, the pain worsened on
___ around 11 AM, while he was at work (+walking around, no
heavy lifting). There was no specific inciting movement or 
event.
He is not aware of a positional component. Approximately one
month ago he had similar left arm pain that woke him from sleep,
but he thought it was due to sleeping in an odd position. It
self-resolved.

He describes the pain he had on ___ as substernal, radiating to
the left arm and fingers as well as to his neck. He had no
dyspnea but due to the pressure in his neck he had felt a
progressive suffocation sensation.  He has had no
lightheadedness, no nausea or vomiting, no palpitations, fevers
or chills, or cough. 

He presented to ___, where he was found to have a
normal EKG and an elevated troponin T to 6, with a negative CK.
Patient's pain improved to ___ with 2 sublingual tabs of nitro
and full dose aspirin, atorvastatin 40mg, and GI cocktail. He 
was
started on heparin drip and transferred to ___. On arrival,
___ is feeling well with ___ nonradiating epigastric
discomfort. Review of systems otherwise negative. 

In the ___, 
- Initial vitals were 98.3 | 70 | 153/82 | 22 | 98% RA 
- EKG: NSR, hr 60-70, no ST elevations or TWI
- Labs/studies notable for: troponin of 0.73
- Patient was given: heparin gtt and nitroglycerine sl x1
- Vitals on transfer: 98.7 | 63 | 129/75 | 18 | 97%RA

He was continued on his heparin drip and received 2 additional 
SL
nitro tabs. He reports that these give him a headache and make
his chest/neck pressure briefly, slightly worse. 

On the floor, he is anxious about his diagnosis; apologetic 
about
needing an interpreter; and has many thoughtful questions about
whether this could be caused by his stress/anxiety, and whether
it is usual to have heart problems like this at his age. He is
interested in a medicine to help him sleep tonight but would not
want one at home because "I am worried I won't wake up in the
morning."
 
Past Medical History:
1. CARDIAC RISK FACTORS
- none
2. CARDIAC HISTORY
- none
3. OTHER PAST MEDICAL HISTORY
- Two bleeding gastric ulcers at ___ in ___
- GERD, +H.Pylori; followed by GI at ___ and ___
endoscopy ___ months ago showed Hiatal Hernia. 
- Balanitis 
 
Social History:
___
Family History:
MGM with early MI (in her ___
Mom and Dad are living with no known heart problems.
 
Physical Exam:
ADMISSION PHYSICAL EXAM
======================
VS: 98.0 | 145/80 | 63| 18 | 99%Ra
GENERAL: Well-appearing, nonotoxic young male appearing somewhat
anxious but in no acute distress.
HEENT: AT/NC, anicteric sclera with equally round and reactive
pupils, MMM.
NECK: supple, no LAD
CV: RRR, S1/S2, no murmurs, gallops, or rubs
PULM: CTAB without adventitious sounds; breathing comfortably
without use of accessory muscles
GI: abdomen soft, nondistended, nontender in all quadrants, no
rebound/guarding, no hepatosplenomegaly appreciated on 
palpation.
Epigastric tenderness is RELIEVED by pressure to the area. 
EXTREMITIES: No edema.
PULSES: 2+ radial pulses bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric; answering questions appropriately
DERM: skin warm and well perfused. Left elbow with spiderweb
tattoo; nape of neck with symbol tattoo. 

DISCHARGE PHYSICAL EXAM
======================
Vitals:  ___ 0733 Temp: 98.6 PO BP: 113/66 HR: 71 RR: 16 O2
sat: 97% O2 delivery: RA 
GENERAL: Well-appearing young male in no acute distress.
HEENT: AT/NC, anicteric sclera with equally round and reactive
pupils, MMM.
NECK: supple, no LAD
CV: Normal rate, regular rhythm. No murmurs/rubs/gallops
appreciated
PULM: Lungs clear to auscultation bilaterally. No
wheezes/crackles appreciated
GI: Soft, non-tender, non-distended. Normal bowel sounds
EXTREMITIES: No peripheral edema. Pulses 2+ bilaterally
NEURO: Alert, moving all 4 extremities with purpose, face
symmetric; answering questions appropriately
DERM: skin warm and well perfused. Left elbow with spiderweb
tattoo; nape of neck with symbol tattoo. 

 
Pertinent Results:
ADMISSION LABS
=============
___ 11:42PM BLOOD WBC-9.5 RBC-4.77 Hgb-15.2 Hct-44.0 MCV-92 
MCH-31.9 MCHC-34.5 RDW-12.0 RDWSD-40.8 Plt ___
___ 11:42PM BLOOD Neuts-54.6 ___ Monos-7.6 Eos-1.8 
Baso-0.6 Im ___ AbsNeut-5.18 AbsLymp-3.33 AbsMono-0.72 
AbsEos-0.17 AbsBaso-0.06
___ 11:42PM BLOOD ___ PTT-150* ___
___ 11:42PM BLOOD Glucose-108* UreaN-13 Creat-0.9 Na-140 
K-3.8 Cl-100 HCO3-29 AnGap-11
___ 11:42PM BLOOD CK(CPK)-369*
___ 11:42PM BLOOD CK-MB-30* MB Indx-8.1* cTropnT-0.73*
___ 11:42PM BLOOD Cholest-146
___ 11:42PM BLOOD Triglyc-27 HDL-68 CHOL/HD-2.1 LDLcalc-73
___ 03:00AM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG

INTERIM LABS
===========
___ 03:00AM BLOOD PTT-131.2*
___ 06:19AM BLOOD ALT-30 AST-53* AlkPhos-57 TotBili-0.8
___ 03:00AM BLOOD cTropnT-0.41*
___ 03:00AM BLOOD Calcium-9.2 Phos-5.0* Mg-2.1

STUDIES
=======
Echocardiogram ___
The left atrial volume index is normal. The right atrium is
mildly enlarged. A prominent Chiari network is
present (normal variant). The estimated right atrial pressure is
___ mmHg. There is normal left ventricular
wall thickness with a normal cavity size. There is normal
regional and global left ventricular systolic function.
There is no resting left ventricular outflow tract gradient.
Transmitral and tissue Doppler suggests normal
diastolic function, and a normal left ventricular filling
pressure (PCWP less than 12mmHg). Mildly dilated right
ventricular cavity with normal free wall motion. The aortic 
sinus
diameter is normal for gender with normal
ascending aorta diameter for gender. The aortic arch diameter is
normal. The aortic valve leaflets (3) appear
structurally normal. There is no aortic valve stenosis. There is
no aortic regurgitation. The mitral valve leaflets
appear structurally normal with no mitral valve prolapse. There
is mild [1+] mitral regurgitation. The tricuspid
valve leaflets appear structurally normal. There is mild [1+]
tricuspid regurgitation. The estimated pulmonary
artery systolic pressure is normal. There is no pericardial
effusion.
IMPRESSION: Normal biventricular cavity sizes, regional/global
systolic function. Mild mitral regurgitation.

Cardiac catheterization ___
No angiographically apparent coronary disease with probable 
small
occluded very distal RPL
branch (?embolic)

TEE ___
There is no spontaneous echo contrast or thrombus in the body of
the left atrium/left atrial appendage. The
left atrial appendage ejection velocity is normal. No 
spontaneous
echo contrast or thrombus is seen in the
body of the right atrium/right atrial appendage. The right 
atrial
appendage ejection velocity is normal. There is
an intermittent left-to-right color flow Doppler signal across
the interatrial septum at rest with premature
appearance of saline contrast in the left atrium with maneuvers
most c/w a secundum atrial septal defect.
There are no aortic arch atheroma with no atheroma in the
descending aorta. The aortic valve leaflets (3)
appear structurally normal. No masses or vegetations are seen on
the aortic valve. No abscess is seen. There
is no aortic regurgitation. The mitral valve leaflets appear
structurally normal with no mitral valve prolapse.
No masses or vegetations are seen on the mitral valve. No 
abscess
is seen. There is physiologic mitral
regurgitation. The tricuspid valve leaflets appear structurally
normal. No mass/vegetation are seen on the
tricuspid valve. No abscess is seen. There is physiologic
tricuspid regurgitation.
IMPRESSION: Small intermittent left-to-right color Doppler 
signal
with a few microbubbles with right-to-left
flow with maneuvers c/w small secundum type atrial septal 
defect.
No spontaneous echo contrast or thrombus
in the left atrium/left atrial appendage/right atrium/right
atrial appendage. No valvular pathology or
pathologic valvular flow identified.

DISCHARGE LABS
=============
___ 03:00AM BLOOD WBC-7.7 RBC-4.62 Hgb-14.7 Hct-43.1 MCV-93 
MCH-31.8 MCHC-34.1 RDW-12.2 RDWSD-42.3 Plt ___
___ 03:10PM BLOOD PTT-40.4*
___ 03:00AM BLOOD Glucose-96 UreaN-14 Creat-0.9 Na-141 
K-4.4 Cl-104 HCO3-29 AnGap-8*
___ 03:00AM BLOOD ALT-25 AST-32
___ 03:00AM BLOOD Calcium-9.2 Phos-5.0* Mg-2.1
___ 03:00AM BLOOD ASA-NEG Acetmnp-NEG Tricycl-NEG
 
Brief Hospital Course:
___ year old male with history GERD with ulcer, hiatal hernia, 
and tobacco use history, here with chest pain & elevated 
troponins, concerning for NSTEMI, admitted for cath evaluation.

ACUTE ISSUES
=============
#NSTEMI
#Secundum Atrial Septal Defect: 
Pt w/ CP & troponin w/ peak at 0.74, nl echo & EKG. Only risk 
factor for CAD is tobacco use & mother who died in ___ from 
heart problems. No infectious symptoms and EKG was not 
consistent w/ myocarditis. TIMI was 2. Placed on heparin gtt, 
started on ASA 81mg daily & atorvastatin 80mg daily w/ SL nitro. 
Troponin trended down during admission. Cardiac catheterization 
showed a "probable small occluded very distal RPL branch". TEE 
showed a few microbubbles with right-to-left
flow with maneuvers c/w small secundum type atrial septal 
defect. No spontaneous echo contrast or thrombus in the left 
atrium/left atrial appendage/right atrium/right atrial 
appendage. No valvular pathology or pathologic valvular flow 
identified. Likely caused a shunt & embolus. Pt will be d/ced on 
ASA & Atorvastatin with cardiology followup.

CHRONIC ISSUES
==============
#GERD: 
Hx of hiatal hernia, GERD, ulcers. 
- Ranitidine 150mg BID, TUMS PRN.

#ANXIETY: 
Baseline anxiety
- trazodone QHS
- consider initiating SSRI (eg, escitalopram 5mg) if he is 
amenable as an outpatient.

TRANSITIONAL ISSUES
[] Pt should follow up with new cardiologist. However his septal 
defect is likely too small to warrant repair.
[] Please continue to encourage reduction in alcohol consumption
[] Pt initiated process for Mass Health coverage while in-house, 
however on discharge his application is still pending. Please 
ensure that he has the help he needs as an outpatient to obtain 
health insurance.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
2. Vitamin D ___ UNIT PO DAILY 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Aspirin Regimen] 81 mg 1 tablet(s) by mouth 
daily Disp #*14 Tablet Refills:*0 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*14 
Tablet Refills:*0 
3.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
4.  Vitamin D ___ UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
- secundum atrial septal defect

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
  
It was a pleasure taking care of you at the ___ 
___!  

WHY WAS I IN THE HOSPITAL?  
==========================  
- You were admitted because you had chest pain.

WHAT HAPPENED IN THE HOSPITAL?  
==============================  
- You had a cardiac catheterization. This is a procedure that 
looks at the blood vessels of your heart. 
- You were found to have a small clot in an artery in your heart
- An ultrasound of your heart showed a very small hole, present 
from birth, which goes between 2 chambers of your heart. We 
determined this was the cause of your pain.
- Your liver showed evidence of stress, likely from alcohol use. 


WHAT SHOULD I DO WHEN I GO HOME?  
================================  
- We have made appointments with your primary care doctor and 
with a cardiologist. Please keep these appointments
- You have been prescribed two new medications. Please take 
these every day.
- We would encourage you to stop drinking alcohol or use any 
tobacco products
 

Thank you for allowing us to be involved in your care, we wish 
you all the best!  

Your ___ Healthcare Team  

 
Followup Instructions:
___